US05424295
6-Iodopurine (Sigma Chemical Co. St. Louis, Mo.) (4 mmoles, 1 g) was dissolved in 15 ml of 1,2-dimethoxyethane with heating. Fifty milliliters of a uracil arabinoside solution (10.1 mmoles) in 10 mM potassium phosphate, 0.04% potassium azide solution, pH of 7.4, were added. Purified uridine phosphorylase (6800 I.U.) and purine nucleoside phosphorylase (12000 I.U.) were added and the reaction stirred at 35° C. After 21 days an additional 4800 units of uridine phosphorylase and 20000 units of purine nucleoside phosphorylase were added. Ninety days later the reaction was filtered and the solvent removed under vacuum. The residue was suspended in 100 ml of water, heated with steam, and then filtered. The filtrate was chromatographed on a column containing XAD-2 resin (5×35 cm), eluting with 2 liters of water followed by 2 liters ethanol. Fractions containing product were combined and the solvent removed under vacuum. The residue was dissolved in 30% n-propanol/water (v/v) and chromatographed on a column containing BioRad P-2 (5×90 cm). The product was eluted with 30% n-propanol/water (v/v). Product-containing fractions were combined and the solvent removed under vacuum. The residue was dissolved in 30% n-propanol/water (v/v) and chromatographed on a Sephadex G-10 column (5×90 cm). This column was eluted with 30% n-propanol/water (v/v). Product-containing fractions were combined and after removing the solvent under vacuum, yielded 0.253 g of 9-β-D-arabinofuranosyl-6-iodo-9H-purine that analyzed as a 1.5 hydrate. NMR and mass spectrometry were consistent with the structure. Anal. Calcd. for C10H11IN4O4.1.5 H2O: Calcd: C, 29.65; H, 3.48; N, 13.83; I, 31.32. Found: C, 29.43; H, 3.53; N, 13.66; I, 31.20.

reactant | 6-Iodopurine | 4 mmoles, 1 g | IC1=C2NC=NC2=NC=N1 | C5H3IN4
reactant | uracil arabinoside | 10.1 mmoles, Fifty milliliters | C1=CN(C(=O)NC1=O)[C@H]2[C@H]([C@@H]([C@H](O2)CO)O)O | C9H12N2O6
reactant | uridine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
solvent | 1,2-dimethoxyethane | 15 ml | COCCOC | C4H10O2
solvent | potassium phosphate | 10 mM | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | potassium azide | [N-]=[N+]=[N-].[K+]
product | 9-β-D-arabinofuranosyl-6-iodo-9H-purine | 0.253 g | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C2=NC=NC(=C2N=C1)I | C10H11IN4O4
